US07186724B2
4-(3-Hydroxy-2-methoxycarbonyl-7-trifluoromethyl-2,3-dihydro-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (MDL 832712).
To a room temperature solution of 4-(2-fluoro-3-trifluromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester (9.00 g, 24.0 mmol), methyl thioglycolate (2.40 mL, 26.8 mmol), and anhydrous THF (200 mL) under nitrogen was added NaH (1.15 g of a 60% oil dispersion, 28.7 mmol) in one portion. After the gas evolution ceased, the reaction was stirred at 55° C. After 100 min, the reaction was cooled to room temperature and diluted with ethyl acetate (500 mL). The mixture was washed with water (300 mL) and brine (300 mL) successively, dried over magnesium sulfate, filtered, and the solvent removed to afford a sticky white solid. Trituration with 20% ethyl acetate/heptane afforded 6.20 g (56%) of the desired product as a white powder.

reactant | 4-(2-fluoro-3-trifluromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 24.0 mmol, 9.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=C(C(=CC=C1)C(F)(F)F)F)=O | C18H21F4NO3
reactant | methyl thioglycolate | 26.8 mmol, 2.40 mL | C(CS)(=O)OC | C3H6O2S
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | NaH | [H-].[Na+]
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | 4-(3-Hydroxy-2-methoxycarbonyl-7-trifluoromethyl-2,3-dihydro-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 6.20 g, 56% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1(C2=C(SC1C(=O)OC)C(=CC=C2)C(F)(F)F)O | C21H26F3NO5S
